US05756507
Step 2D 2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethylamine
To a solution of 2-{2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-isoindole-1,3-dione (87 mg in a mixture of 4 mL tetrahydrofuran and 4 mL ethanol) was added 0.6 mL of 95% aqueous hydrazine and the reaction stirred at room temperature. After 18 hours the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 9:6:1) to provide the title compound (54 mg).

reactant | 2-{2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-isoindole-1,3-dione | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C26H22N2O2
reactant | hydrazine | 0.6 mL | NN | H4N2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethylamine | 54 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCN | C18H20N2
